US07393868B2
Propane-2-sulfonic acid [2-(5′-amino-3′-fluoro-biphenyl-4-yl)-thiophen-3-yl]-amide
Add SnCl2.2 H2O (8.5 mmol) to a solution of propane-2-sulfonic acid [2-(3′-fluoro-5′-nitro-biphenyl-4-yl)-thiophen-3-yl]-amide (1.2 mmol) in EtOH (40 mL). Heat the reaction at 70° C. for 30 min and then at room temperature overnight. Add a saturated solution of NaHCO3 (pH=11-12) and extract with EtOAc (2×50 mL). Dry over NaSO4, filter and evaporate to dryness to provide the title compound. MS (ES−): 389 (M−1).

reactant | SnCl2 | Cl[Sn]Cl
reactant | H2O | 8.5 mmol | O | H2O
reactant | propane-2-sulfonic acid [2-(3′-fluoro-5′-nitro-biphenyl-4-yl)-thiophen-3-yl]-amide | 1.2 mmol | FC=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C | C19H17FN2O4S2
reactant | NaHCO3 | pH=11-12 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 40 mL | CCO | C2H6O
product | Propane-2-sulfonic acid [2-(5′-amino-3′-fluoro-biphenyl-4-yl)-thiophen-3-yl]-amide | NC=1C=C(C=C(C1)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C)F | C19H19FN2O2S2
